US07208494B2
h) (4R,9aR)-6-Bromo-7-ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to example 2, intermediate, from (R)-6-bromo-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester and sodium cyanoborohydride.

reactant | (R)-6-bromo-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=C(N=C3N2[C@@H](C1)C)Br)OCC | C18H24BrN3O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | (4R,9aR)-6-Bromo-7-ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)Br)OCC | C18H26BrN3O3
